US04264595
Production of 7-(4-bromo-3-oxobutyrylamino)-3-methyl-3-cephem-4-carboxylic acid
A solution of 2.2 g of diketene in 5 ml of methylene chloride was cooled to -40° C. and 4.4 g of bromine were added dropwise. Separately, 4.28 g of 7-aminodesacetoxycephalosporanic acid and 8.0 g of n-dibutylamine were dissolved in 120 ml of methylene chloride and cooled. The above reaction mixture was added dropwise to this mixed solution. The temperature of the mixture was increased to room temperature over 30 minutes, after which the mixture was stirred for an additional 30 minutes. The solvent was distilled off under reduced pressure and the resulting residue was shaken vigorously with 200 ml of ethyl acetate and 40 ml of 40% phosphoric acid. The organic layer was taken, washed with water, dried and concentrated to dryness under reduced pressure. To the residue was added ethyl ether, followed by stirring. The resultant powder was collected by filtration and dried. By the above procedure there were obtained 3.7 g of the captioned compound.

reactant | diketene | 2.2 g | C=C1CC(=O)O1 | C4H4O2
reactant | bromine | 4.4 g | BrBr | Br2
reactant | 7-aminodesacetoxycephalosporanic acid | 4.28 g | CC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C8H10N2O3S
reactant | n-dibutylamine | 8.0 g | CCCCNCCCC | C8H19N
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 120 ml | C(Cl)Cl | CH2Cl2
product | 7-(4-bromo-3-oxobutyrylamino)-3-methyl-3-cephem-4-carboxylic acid | 3.7 g | BrCC(CC(=O)NC1[C@@H]2N(C(=C(CS2)C)C(=O)O)C1=O)=O | C12H13BrN2O5S
